US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-methylpiperidine
A mixture of 600 mg. (1.98 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-piperidine, 0.78 ml. of 37% formaldehyde, 1.98 ml. of 1N hydrochloric acid and 150 mg. of 5% palladium-on-carbon is hydrogenated under 55 p.s.i. of hydrogen for 1.5 hours. The reaction mixture is filtered through diatomaceous earth and concentrated under reduced pressure. The residue is diluted with 75 ml. of saturated sodium bicarbonate and extracted with two 75 ml. portions of dichloromethane. The combined extract is washed with 75 ml. of saturated sodium chloride, dried over magnesium sulfate and evaporated to yield 567 mg. (90%) of the title compound as an oil.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-piperidine | 1.98 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CNCCC1)O | C20H33NO
reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-methylpiperidine | 90% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CN(CCC1)C)O | C21H35NO
